US07176320B2
696 μl (5.0 mmol) of triethylamine and 893 mg (5.0 mmol) of methyladipochloride were dropped into 10 ml of a chloroform solution containing 540 mg (5.0 mmol) of orthophenylenediamine followed by stirring for 12 hours at room temperature. 20 ml of ethanol and 4 ml of concentrated hydrochloric acid were then added followed by stirring for 10 hours while heating and refluxing. The reaction solution was then neutralized using 5 M aqueous sodium hydroxide solution followed by extraction with ethyl acetate. After washing with water and concentrating under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate only) to obtain 359 mg of 5-(benzimidazole-2-yl)pentanoate ethyl ester (yield: 30%).

reactant | triethylamine | 5.0 mmol, 696 μl | C(C)N(CC)CC | C6H15N
reactant | orthophenylenediamine | 5.0 mmol, 540 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(benzimidazole-2-yl)pentanoate ethyl ester | 359 mg, yield: 30% | C(C)OC(CCCCC=1NC2=C(N1)C=CC=C2)=O | C14H18N2O2
